US05401722
A mixture of 1 g of 2-[2-((4S,5S)-3-BOC-4-cyclohexylethyl-2,2-dimethyl-5-oxazolidinyl)-ethyl]-2-ethoxycarbonyl-1,3-dithiane 1,1,3,3-tetroxide, 50 ml of dioxane and 20 ml of 2 N NaOH (aqueous) is stirred at 20° for 3 h. The usual working up gives 2-[2-((4S,5S)-3-BOC-4-cyclohexylmethyl-2,2-dimethyl-5-oxazolidinyl)-ethyl]-2-carboxy-1,3-dithiane 1,1,3,3-tetroxide.

reactant | 2-[2-((4S,5S)-3-BOC-4-cyclohexylethyl-2,2-dimethyl-5-oxazolidinyl)-ethyl]-2-ethoxycarbonyl-1,3-dithiane 1,1,3,3-tetroxide | 1 g | C(=O)(OC(C)(C)C)N1C(O[C@H]([C@@H]1CCC1CCCCC1)CCC1(S(CCCS1(=O)=O)(=O)=O)C(=O)OCC)(C)C | C27H47NO9S2
reactant | NaOH | 2 N, 20 ml | [OH-].[Na+]
reactant | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 2-[2-((4S,5S)-3-BOC-4-cyclohexylmethyl-2,2-dimethyl-5-oxazolidinyl)-ethyl]-2-carboxy-1,3-dithiane 1,1,3,3-tetroxide | C(=O)(OC(C)(C)C)N1C(O[C@H]([C@@H]1CC1CCCCC1)CCC1(S(CCCS1(=O)=O)(=O)=O)C(=O)O)(C)C | C24H41NO9S2
